US07973051B2
Potassium thiocyanate Fluka 60519 (38.8 g, 400 mmol, 8.0 equiv.) and 5-amino-2-methoxypyridine Aldrich A6, 120-9 (6.2 g, 50 mmol, 1.0 equiv.) were added to 100 mL glacial acetic acid precooled to 5° C. (semi solid) with mechanical stirring. Bromine (23.9 g, 150 mmol, 3.0 equiv.) dissolved in 30 mL glacial acetic acid was added dropwise to the reaction mixture over 1.5 hr at 0° C. The thick slurry was stirred 2 hrs at 0° C. and overnight at RT. Then 30 mL water was added to the orange suspension, which was heated to 85° C. and filtered hot. The residue was treated again with acetic acid, heated and filtered like before. The combined filtrates were cooled and neutralized with NH4OH at pH 6. The red precipitate was filtered, dissolved in ethyl acetate and washed with NaHCO3 and brine, dried over Na2SO4, evaporated and crystallized from ethyl acetate-hexane using charcoal to give 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine m/e 182.0 (MH+).

reactant | Potassium thiocyanate | [S-]C#N.[K+]
reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | Bromine | 150 mmol, 23.9 g, 3.0 equiv. | BrBr | Br2
reactant | water | 30 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
